US05362878
N-(4-dimethylamino-6-methylthiopyrimidin-5-yl)-cis-9-octadecenamide
5-Amino-4-dimethylamino-6-methylthiopyrimidine (prepared by reacting 5-amino-4-dimethylamino-6-chloropyrimidine with sodium thiomethoxide) was coupled with oleoyl chloride using the procedure described in Example 4 to give the title compound.

reactant | 5-Amino-4-dimethylamino-6-methylthiopyrimidine | NC=1C(=NC=NC1SC)N(C)C | C7H12N4S
reactant | oleoyl chloride | C(CCCCCCC\C=C/CCCCCCCC)(=O)Cl | C18H33ClO
product | N-(4-dimethylamino-6-methylthiopyrimidin-5-yl)-cis-9-octadecenamide | CN(C1=NC=NC(=C1NC(CCCCCCC\C=C/CCCCCCCC)=O)SC)C | C25H44N4OS
